US07238696B2
Preparation of 4-Chloro-2-{[(4-fluorophenyl)sulfonyl]methyl}-6-(4-methylpiperazin-1-yl)aniline
A solution of 1-{5-chloro-2-nitro-3-{[(4-fluorophenyl)sulfonyl]methyl}phenyl}-4-methylpiperazine (1.0 mmol) in methanol is treated with Sn foil (593.3 mg), followed by 5.8 mL of 12 M HCl, heated at 60° C. for 4 h (until reaction is complete by thin layer chromatography), cooled to 0° C., treated with solid NaOH to pH>10 and extracted with CH2Cl2. The extracts are combined, washed with water and concentrated to dryness in vacuo to give the title compound.

reactant | 1-{5-chloro-2-nitro-3-{[(4-fluorophenyl)sulfonyl]methyl}phenyl}-4-methylpiperazine | 1.0 mmol | ClC=1C=C(C(=C(C1)N1CCN(CC1)C)[N+](=O)[O-])CS(=O)(=O)C1=CC=C(C=C1)F | C18H19ClFN3O4S
reactant | HCl | 12 M, 5.8 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-Chloro-2-{[(4-fluorophenyl)sulfonyl]methyl}-6-(4-methylpiperazin-1-yl)aniline | ClC1=CC(=C(N)C(=C1)N1CCN(CC1)C)CS(=O)(=O)C1=CC=C(C=C1)F | C18H21ClFN3O2S
